Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Slurred speech. 
 
Major Surgical or Invasive Procedure:
Two left burr holes and evacuation of subdural hematoma on 
___.

 
History of Present Illness:
___ y/o M hx CAD, HTN, HLD and stage V CKD on ASA 81 presents
with word finding difficulty and lethargy over the past ___
weeks.  Pt and family states that he has fallen twice that they
can recall in that time frame and also few more times within the
past year, last fall 2 days before presentation.  Pt denies any
LOC during these falls.  Pt denies numbness weakness, nausea and
vomiting, blurred vision, double vision, dizziness.

 
Past Medical History:
HTN  
Hyperlipidemia  
BPH- pt is ? s/p TURP (pt could not recall details)
.  
Past Surgical Hx:  
R total knee replacement  

 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O: T:98.0  BP: 132/79   HR: 71    RR:22    O2Sats:100%
Gen: WD/WN, comfortable, NAD.
HEENT: normocephalic, atraumatic
Neck: Supple.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
frequent problems with word finding.  Difficulty naming low
frequency objects. mild dysarthria with frequent paraphasic
errors.

Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. Visual fields not tested.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Mild right facial droop. sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally.

Toes downgoing bilaterally.

Coordination: normal on finger-nose-finger, rapid alternatinng
movements.

PHYSCIAL EXAMINATION ON DISCHARGE:
Alert and oriented x3. Speech clear. Comprehension intact.
CN II-XII grossly intact. 
Motor examination full strength throughout all four extremities.
Incisions: Closed with nylon sutures. Clean, dry and intact 
without edema, erythema or discharge. 
 
Pertinent Results:
CT Head: ___
Large left holohemispheric chronic SDH with subacute
components, maximal thickness of 2.4cm with 1cm midline shift.

CT Head: ___
Status post evacuation of left subdural collection with air and 
fluid now 
occupying the left subdural space. Although overall the midline 
shift has 
mildly decreased, there is a focal area of increased mass effect 
of the left frontal lobe caused by pneumocephalus. 

CT Head: ___
1. Stable postoperative changes after evacuation of left 
subdural hematoma including a large amount of pneumocephalus. 
2. No new hemorrhage. 
3. Stable mass effect including 7 mm of subfalcine herniation. 

 
Brief Hospital Course:
The patient was admitted to the ICU for close monitoring on the 
day of presentation, ___. She received a loading dose of 
Dilantin and was continued on Dilantin three times daily.

On ___, the patient was taken to the operating room and 
underwent burr holes on the left for evacuation of the subdural 
hematoma. A post-operative head CT was obtained and showed 
post-operative changes and was negative for active hemorrhage.

On ___, the patient remained neurologically stable. 
Subcutaneous Heparin was started for DVT prophylaxis. It was 
determined he would be transferred to the floor and evaluated by 
___ and OT for dispo planning.

On ___, the patient's urine culture was negative for 
growth and the IV Ceftriaxone was discontinued. A Head CT was 
obtained and was stable. He was evaluated by ___ who recommended 
discharge to rehabilitation. The case management team are 
screening him for facilities. 

On ___, the patient continued with urinary incontinence, 
which is his baseline. It was determined he would be discharged 
to rehabilitation later today.  

 
Medications on Admission:
Asa 81 mg PO daily
Doxazosin 8mg PO daily,
Simvastatin 40mg PO daily

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain; fever 
Do not exceed greater than 4g Acetaminophen in a 24-hour period. 
 
2. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
3. Docusate Sodium 100 mg PO BID 
4. Doxazosin 8 mg PO HS 
5. Heparin 5000 UNIT SC TID 
6. HydrALAzine ___ mg IV Q6H:PRN SBP >160 
Goal SBP <160. 
7. Ondansetron 4 mg IV Q8H:PRN nausea; vomiting 
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
Hold for sedation, drowsiness or RR <12. 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Simvastatin 40 mg PO DAILY 
11. LeVETiracetam 500 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
Chronic Subdural Hematoma

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Craniotomy for Hemorrhage:

•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Your wound was closed with sutures. You may wash your hair 
only after sutures have been removed.  
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•If you were on a medication such as Coumadin (Warfarin), or 
Plavix (clopidogrel), or Aspirin, prior to your injury, you may 
not resume this medication until cleared by the outpatient 
neurosurgery office.
•You have been prescribed Dilantin (Phenytoin) for anti-seizure 
medicine, take it as prescribed and follow-up with laboratory 
blood drawing in one week.  This can be drawn at your PCP’s 
office, but please have the results faxed to ___. 
You have been discharged on Keppra, an anti-seizure medication. 
Take this medication as directed. 

•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
•Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:
•New onset of tremors or seizures.
•Any confusion or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, or drainage.
•Fever greater than or equal to 101.5° F.

 
Followup Instructions:
___